US07528250B2
3-Fluorophenol (8.9 g, 79.5 mmol) and 3-bromopropionic acid (12.24 g, 80.0 mmol) were placed in a flask. A solution of NaOH (6.7 g, 167 mmol) in 20 mL water was added slowly to the flask. The reaction mixture was heated to reflux for two hours and then cooled to room temperature and partitioned between ethyl acetate and water. The organic layer was dried over MgSO4, and solvent was evaporated under reduced pressure to give 4.57 g (25 mmol, 31.4%) of 3-(3-fluoro-phenoxy)-propionic acid. MS: 185 (M+H)+.

reactant | 3-Fluorophenol | 79.5 mmol, 8.9 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | 3-bromopropionic acid | 80.0 mmol, 12.24 g | BrCCC(=O)O | C3H5BrO2
reactant | NaOH | 167 mmol, 6.7 g | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
product | 3-(3-fluoro-phenoxy)-propionic acid | 25 mmol, 4.57 g, 31.4% | FC=1C=C(OCCC(=O)O)C=CC1 | C9H9FO3
